US05936125
3-Methoxycarbonylamino-5-(2,3-dimethoxyphenyl)-2,5-dihydrofuran-2-one
300 g of 2-keto-4-(2,3-dimethoxyphenyl)-3-butenoic acid, 2680 ml of toluene, 13.4 g of p-toluenesulfonic acid and 133.8 g of methyl carbamate are placed into a 6 l 4-necked round-bottomed flask in an oil-bath, the mixture is heated to 105° C. for 4 hours with stirring, and the present water is removed azeotropically, the mixture is filtered and the solution is evaporated to dryness under vacuum, then the residue is triturated for about 2 hours with 1260 ml of Et2O, filtered washing with petroleum ether (40-70° C.) and dried under vacuum at 60° C. 313.00 g are obtained. (Yield 94%).

reactant | 2-keto-4-(2,3-dimethoxyphenyl)-3-butenoic acid | 300 g | O=C(C(=O)O)C=CC1=C(C(=CC=C1)OC)OC | C12H12O5
reactant | p-toluenesulfonic acid | 13.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl carbamate | 133.8 g | C(N)(OC)=O | C2H5NO2
solvent | toluene | 2680 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methoxycarbonylamino-5-(2,3-dimethoxyphenyl)-2,5-dihydrofuran-2-one | Yield 94% | COC(=O)NC=1C(OC(C1)C1=C(C(=CC=C1)OC)OC)=O | C14H15NO6
